US06608077B2
a) 3-(azidocarbonyl)-2-chloropyridine
To a solution of 2-chloronicotinic acid (1.0 g, 6.35 mmol) in a mixture of acetone (14 mL) and water (6 mL) was added triethylamine (0.97 mL, 6.98 mmol). The mixture was cooled to 0° C. in a ice-bath. Ethylchloroformate (1.03 g, 9.5 mmol) was then added and the resulting mixture was stirred for 1.0 hour at 0° C. To the mixture was added sodium azide (0.70 g, 10.8 mmol), and the mixture was stirred for another 3 hours. The mixture was concentrated, the residue was diluted with dichloromethane and washed with water. The organic layer was dried over MgSO4 and concentrated to give desired product (550 mg, 48%). 1HNMR (CDCl3) (δ) 8.57 (d, 1H), 8.22 (d, 1H), 7.37 (t, 1H).

reactant | 2-chloronicotinic acid | 6.35 mmol, 1.0 g | ClC1=C(C(=O)O)C=CC=N1 | C6H4ClNO2
reactant | triethylamine | 6.98 mmol, 0.97 mL | C(C)N(CC)CC | C6H15N
reactant | Ethylchloroformate | 9.5 mmol, 1.03 g | C(C)OC(=O)Cl | C3H5ClO2
reactant | sodium azide | 10.8 mmol, 0.70 g | [N-]=[N+]=[N-].[Na+]
solvent | acetone | 14 mL | CC(=O)C | C3H6O
solvent | water | 6 mL | O | H2O
product | 3-(azidocarbonyl)-2-chloropyridine | 550 mg, 48% | N(=[N+]=[N-])C(=O)C=1C(=NC=CC1)Cl | C6H3ClN4O
